US07135466B2
1-Ethyl-3-butynyl N-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2-nitrophenyl}carbamate
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-nitroaniline (100 mg) was added to toluene (10 ml) and triethylamine (1 ml), and the mixture was heated under reflux to prepare a solution. A solution of triphosgene (140 mg) in methylene chloride was then added thereto, and the mixture was heated under reflux for 10 min. Next, 5-hexyn-3-ol (43 mg) was added thereto, and the mixture was further stirred with heating under reflux for 3 hr. A saturated aqueous sodium bicarbonate solution was added to stop the reaction, and the reaction solution was then extracted with chloroform, followed by washing with a 1 N aqueous hydrochloric acid solution, water, and saturated brine in that order. The extract was dried over sodium sulfate and was then concentrated. The residue was purified on a column using chloroform/methanol to give the title compound (115 mg, yield 85%).

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-nitroaniline | 100 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C16H14N4O5
reactant | triphosgene | 140 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 5-hexyn-3-ol | 43 mg | CCC(CC#C)O | C6H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Ethyl-3-butynyl N-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2-nitrophenyl}carbamate | 115 mg, yield 85% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(OC(CC#C)CC)=O)[N+](=O)[O-] | C23H22N4O7
